US08119663B2
Step b): Methyl 5-[4-methyl-3-(trifluoromethyl)phenyl]pyridine-3-carboxylate
2.2 g (10.3 mmol) of methyl 5-bromonicotinate and 2.5 g (12.4 mmol) of [4-methyl-3-(trifluoromethyl)phenyl]boronic acid were reacted according to the General Method 1A. Yield: 2.6 g (86% of theory)

reactant | methyl 5-bromonicotinate | 10.3 mmol, 2.2 g | BrC=1C=NC=C(C(=O)OC)C1 | C7H6BrNO2
reactant | [4-methyl-3-(trifluoromethyl)phenyl]boronic acid | 12.4 mmol, 2.5 g | CC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C8H8BF3O2
product | Methyl 5-[4-methyl-3-(trifluoromethyl)phenyl]pyridine-3-carboxylate | CC1=C(C=C(C=C1)C=1C=C(C=NC1)C(=O)OC)C(F)(F)F | C15H12F3NO2
